US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (640 mg, 1.5 mmol) with 4-aminomethyl-N-cycloheptyl-3-fluoro-benzamide (795 mg, 3 mmol) in anhydrous toluene (20 mL). Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (19:1 to 3:2 gradient) to obtain 7-chloro-6-(4-cycloheptylcarbamoyl-2-fluoro-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (568 mg, 70%). MS (ES+) m/z: 540.2 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.5 mmol, 640 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-aminomethyl-N-cycloheptyl-3-fluoro-benzamide | 3 mmol, 795 mg | NCC1=C(C=C(C(=O)NC2CCCCCC2)C=C1)F | C15H21FN2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-6-(4-cycloheptylcarbamoyl-2-fluoro-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 568 mg, 70% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=C(C=C(C=C1)C(NC1CCCCCC1)=O)F | C27H30ClF4N3O2
